US06211370B1
3,5-Di-t-butylsalicylaldehyde (2.0 equivalents) (prepared from the inexpensive, commercially available 2,4-di-t-butylphenol according to Larrow, J. F.; Jacobsen, E. N.; Gao, Y.; Hong, Y.; Nie, X.; Zepp, C. M. J. Org Chem 1994, 59, 1939) was added as a solid to a 0.2 M solution of (S,S)-1,2-diaminocyclohexane (1.0 equivalent) (Aldrich Chemical Co., Milwaukee, Wis.) in absolute ethanol. The mixture was heated to reflux for 1 hr. and then H2O was added dropwise to the cooled bright yellow solution. The resulting yellow crystalline solid was collected by filtration and washed with a small portion of 95% ethanol. The yield of analytically pure salen ligand obtained in this manner was 90-97%.

reactant | 3,5-Di-t-butylsalicylaldehyde | 2.0 equivalents | C(C)(C)(C)C1=C(C(C=O)=CC(=C1)C(C)(C)C)O | C15H22O2
reactant | 2,4-di-t-butylphenol | C(C)(C)(C)C1=C(C=CC(=C1)C(C)(C)C)O | C14H22O
reactant | (S,S)-1,2-diaminocyclohexane | 1.0 equivalent | N[C@@H]1[C@H](CCCC1)N | C6H14N2
reactant | H2O | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | salen ligand | C1=C/C(=C/NCCN/C=C/2\C(=O)C=CC=C2)/C(=O)C=C1 | C16H16N2O2
